US09079876B2
Step E. Preparation of Compound 5-(methylsulfonyl)-2-(5-phenyl-1H-imidazol-1-yl)pyridine (Compound 1 E)
M-chloroperoxybenzoic acid (230 g) and 5-(methylthio)-2-(5-phenyl-1H-imidazol-1-yl)pyridine (118 g) were dissolved in 3 L dichloromethane, and stirred to react for 2 hours at 0° C. After the reaction was complete, 1000 mL saturated Na2S2O3 solution was added. The mixture was extracted with dichloromethane, the organic phase was washed with saturated NaCl solution, and dried with anhydrous sodium sulfate. After filtration and concentration, the crude product was purified by column chromatography to obtain the target compound (50 g). 1H-NMR (300 MHz, CDCl3): δ 3.14 (3H, s), 6.90 (1H, d), 7.24 (3H, m), 7.39 (3H, m), 8.06 (1H, dd), 8.30 (1H, s), 9.05 (1H, d); LC-MS m/z: 300 [M++1], purity (HPLC)>95%.

reactant | M-chloroperoxybenzoic acid | 230 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-(methylthio)-2-(5-phenyl-1H-imidazol-1-yl)pyridine | 118 g | CSC=1C=CC(=NC1)N1C=NC=C1C1=CC=CC=C1 | C15H13N3S
reactant | Na2S2O3 | 1000 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 3 L | ClCCl | CH2Cl2
product | 5-(methylsulfonyl)-2-(5-phenyl-1H-imidazol-1-yl)pyridine | 50 g | CS(=O)(=O)C=1C=CC(=NC1)N1C=NC=C1C1=CC=CC=C1 | C15H13N3O2S
